US05733928
N-(6-Cyanohexanoyl)glycine, ethyl ester
23.73 g (84.7·10-3 mol) of N-(6-bromohexanoyl)-glycine, ethyl ester are dissolved in 200 ml of ethanol, and 6.5 g (0.1 mol) of powdered potassium cyanide are added. The reaction mixture is brought to the reflux point and stirred under reflux for 15 hours. After concentration of the mixture under reduced pressure, the residue is taken up with dichloromethane and the organic phase is washed with aqueous sodium chloride solution. The organic phase is dried and concentrated under reduced pressure to give 19 g of the expected product (yield=99%).

reactant | N-(6-bromohexanoyl)-glycine, ethyl ester | 10-3 mol, 23.73 g | BrCCCCCC(=O)NCC(=O)OCC | C10H18BrNO3
reactant | potassium cyanide | 0.1 mol, 6.5 g | [C-]#N.[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-(6-Cyanohexanoyl)glycine, ethyl ester | 19 g, yield=99% | C(#N)CCCCCC(=O)NCC(=O)OCC | C11H18N2O3
